US07446121B2
To a solution of 1-(4-fluoro-phenyl)-4-isopropyl-1H-pyrazole-3,5-dicarboxylic acid 5-benzyl ester 3-methyl ester (18.95 g, 47.8 mmol) in MeOH (300 mL) at 25° C. under N2 was added 10% Pd—C (700 mg; commercially available from Sigma Aldrich). The reaction vessel was evacuated and filled with H2 and then stirred at 25° C. for 3 hrs. Subsequently, the reaction vessel was flushed with N2 and filtered through a pad of celite. The filtrate was concentrated to afford 1-(4-fluoro-phenyl)-4-isopropyl-1H-pyrazole-3,5-dicarboxylic acid 3-methyl ester (14.6g, 99%) in sufficient purity for use in the next step: H-NMR (CDCl3) δ 7.36-7.31 (m, 2 H), 7.11-7.06 (m, 2 H), 3.90 (s, 3 H), 3.86-3.82 (m, 1 H), 1.43 (d, 6 H).

reactant | 1-(4-fluoro-phenyl)-4-isopropyl-1H-pyrazole-3,5-dicarboxylic acid 5-benzyl ester 3-methyl ester | 47.8 mmol, 18.95 g | COC(=O)C1=NN(C(=C1C(C)C)C(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C22H21FN2O4
solvent | MeOH | 300 mL | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | 1-(4-fluoro-phenyl)-4-isopropyl-1H-pyrazole-3,5-dicarboxylic acid 3-methyl ester | 14.6g, 99% | COC(=O)C1=NN(C(=C1C(C)C)C(=O)O)C1=CC=C(C=C1)F | C15H15FN2O4
